US08309581B2
2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole
The title compound was prepared in analogy to Example 19, from 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol (Example 19, intermediate a) and bromomethyl-cyclopentane (CAS Reg. No. 3814-30-0). Colorless powder (41%). MS (Turbo Spray): m/z=459.2 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19ClF2N2O
reactant | bromomethyl-cyclopentane | BrCC1CCCC1 | C6H11Br
product | 2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)OCC2CCCC2 | C26H29ClF2N2O
